US08633173B2
N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine (75.0 mg, 0.232 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (58.0 mg, 0.281 mmol) (prepared as described in J. Med. Chem., 2006, 49, 4451-4454) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.064 g, 56%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.46 (s, 1H), 8.11 (d, J=6.7 Hz, 1H), 7.98 (dd, J=7.9, 1.1 Hz, 1H), 7.57-7.50 (m, 2H), 7.48 (d, J=9.0 Hz, 2H), 7.28-7.24 (m, 1H), 7.14-7.09 (m, 1H), 6.93 (d, J=9.0 Hz, 2H), 6.79 (t, J=6.4 Hz, 1H), 6.68 (s, 1H), 4.10 (t, J=6.1 Hz, 2H), 3.14 (s, 3H), 2.90 (t, J=5.9 Hz, 2H), 2.68-2.58 (m, 4H), 1.86-1.76 (m, 4H). MS=493 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine | 0.232 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C13H11ClN4O2S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.281 mmol, 58.0 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)C1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H28N6O3S
